US07795262B2
Step 3. Preparation of 6-trifluoromethanesulfonyloxy-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester
To a solution of 6-hydroxy-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester (12.46 g, 50 mmol) in anhydrous DCM (150 ml) cooled to 0° C. is added TEA (10.45 ml, 75 mmol, 1.5 eq.), followed by trifluoromethanesulfonic anhydride (15.51 g, 55 mmol, 1.1 eq.) added dropwise. After the addition is complete, 4-dimethylaminopyridine is added (100 mg). The reaction mixture is stirred at 0° C. for 1 hr, then warmed to rt and stirred for an additional 1 hr. Water (200 ml) is added to quench the reaction. The DCM layer is collected, washed with water and brine, and dried over sodium sulfate, and the solvent is removed under reduced pressure. Purification of the residue through silica gel flash chromatography (hexane/EtOAc 10:1) gives the title compound. MS (+VE) m/z 382.2 (M++1).

reactant | 6-hydroxy-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | 50 mmol, 12.46 g | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2CC1)O | C14H19NO3
reactant | trifluoromethanesulfonic anhydride | 55 mmol, 15.51 g, 1.1 eq. | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | Water | 200 ml | O | H2O
solvent | DCM | 150 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | 6-trifluoromethanesulfonyloxy-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2CC1)OS(=O)(=O)C(F)(F)F | C15H18F3NO5S
